US07838499B2
Preparation of (4-(5-bromo-2-chlorobenzyl)phenyl)methanol (Intermediate AK)
To a solution of 4-(5-bromo-2-chlorobenzyl)benzyl acetate (intermediate AJ) (8.86 g) in 60 mL of a mixture of THF:MeOH:H2O (v/v/v=2:3:1), LiOH.H2O (2.10 g) was added. The solution was stirred at room temperature. After 1 h, H2O (10 mL) and ethyl acetate (100 mL) were added. The aqueous layer was extracted 2× with ethyl acetate. The combined ethyl acetate layers were washed with brine and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the product was purified by column chromatography to obtain pure intermediate AK (6 g).

reactant | 4-(5-bromo-2-chlorobenzyl)benzyl acetate | 8.86 g | C(C)(=O)OCC1=CC=C(C=C1)CC1=C(C=CC(=C1)Br)Cl | C16H14BrClO2
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | LiOH.H2O | 2.10 g | O[Li].O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | (4-(5-bromo-2-chlorobenzyl)phenyl)methanol | BrC=1C=CC(=C(CC2=CC=C(C=C2)CO)C1)Cl | C14H12BrClO
